US08207177B2
Step a: tert-Butyl(1S)-2,3-dihydro-1H-inden-1-ylcarbamate
To a solution of (S)-(+)-1-aminoindan (1.24 g, 9.22 mmol) in THF (20.0 mL) was added TEA (1.42 mL, 10.1 mmol) followed by di-tert-butyldicarbonate (2.07 g, 9.22 mmol) and the mixture was stirred under an atmosphere of nitrogen for 24 h. The mixture was concentrated in vacuo and purified via silica gel chromatography eluting with a gradient of 0 to 20% EtOAc in hexanes to afford the title compound as a white solid (2.02 g, 94%). LC/MS: Rt=1.94 min, ES+ 234 (AA standard).

reactant | (S)-(+)-1-aminoindan | 9.22 mmol, 1.24 g | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | di-tert-butyldicarbonate | 9.22 mmol, 2.07 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
product | tert-Butyl(1S)-2,3-dihydro-1H-inden-1-ylcarbamate | 2.02 g, 94% | [C@@H]1(CCC2=CC=CC=C12)NC(OC(C)(C)C)=O | C14H19NO2
